US09035073B2
Tert-butyl 3-(3,4-difluorophenyl)-3-hydroxypyrrolidine-1-carboxylate
Preparation according to Preparation 1. 1-Bromo-3,4-difluorobenzene (5 g, 25.9 mmol) in dry tetrahydrofuran (100 ml), magnesium turnings (0.62 g, 25.9 mmol) and one crystal of iodine. 1-N-boc-3-pyrrolidone (4.79 g, 25.9 mmol) in dry tetrahydrofuran (50 ml). The crude product was purified by flash column chromatography on silica gel (ethyl acetate/isooctane, 1:9 to 1:1) gave the title compound (3.3 g, 43%). MS m/z (rel. intensity, 70 eV) 243 (33), 198 (45), 141 (39), 127 (44), 57 (bp).

reactant | 1-Bromo-3,4-difluorobenzene | 25.9 mmol, 5 g | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | magnesium | 25.9 mmol, 0.62 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-N-boc-3-pyrrolidone | 25.9 mmol, 4.79 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Tert-butyl 3-(3,4-difluorophenyl)-3-hydroxypyrrolidine-1-carboxylate | 3.3 g, 43% | FC=1C=C(C=CC1F)C1(CN(CC1)C(=O)OC(C)(C)C)O | C15H19F2NO3
